US06787543B2
Lithium aluminum hydride was added to an ice-cooled solution of (2S)-1-benzylpiperidine-2-carboxylic acid methyl ester (178 mg) in tetrahydrofuran (2.7 ml) under nitrogen atmosphere. The mixture was stirred for 2 hours below 5° C. The reaction was quenched by a sequential addition of water (0.12 ml), 15% aqueous sodium hydroxide (0.12 ml) and water (0.36 ml) successively, and the whole was stirred at room temperature for 1 hour. The insoluble materials were removed by filtration. The filtrate was dried over sodium sulfate and evaporated under reduced pressure to give (2S)-1-benzyl-2-(hydroxymethyl)piperidine as a colorless oil.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S)-1-benzylpiperidine-2-carboxylic acid methyl ester | 178 mg | COC(=O)[C@H]1N(CCCC1)CC1=CC=CC=C1 | C14H19NO2
solvent | tetrahydrofuran | 2.7 ml | O1CCCC1 | C4H8O
product | (2S)-1-benzyl-2-(hydroxymethyl)piperidine | C(C1=CC=CC=C1)N1[C@@H](CCCC1)CO | C13H19NO
